US07435822B2
3-[(8-Aza-bicyclo[3.2.1]oct-3-ylidene)-thiophen-3-yl-methyl]-phenol
To 400 mg (1.05 mmol) of 3-[(3-methoxy-phenyl)-thiophen-3-yl-methylene]-8-(3-methyl-but-2-enyl)-8-aza-bicyclo[3.2.1]octane in 12 mL of dichloromethane at −78° C. was added 8.43 mL ([1M] in DCM) of boron tribromide drop wise. The reaction solution was slowly warmed to room temperature over 1 hr and allowed to stir 3 hr at room temperature. After 3 hr, to the reaction solution was added 20 mL of a saturated solution of NaHCO3, and 20 mL of 20% ethanol in DCM. The aqueous phase was removed. The organic phase was washed with 20 mL of brine, dried over MgSO4, and concentrated. The concentrated sample was purified by reverse phase chromatography (20×100 mm J'sphere H-80 YMC column using a gradient of 0.1% TFA/water to 5% water/0.1% TFA/acetonitrile). The eluent corresponding to 3-[(8-Aza-bicyclo[3.2.1]oct-3-ylidene)-thiophen-3-yl-methyl]-phenol (earlier eluent) was evaporated to yield 76 mg of the title compound as a white solid; MS m/z (MH+) 298; 1H NMR 300 MHz (MeOD-d4) δ 7.34-7.36 (dd,1H), 7.13-7.18 (m, 2H), 6.86-6.88 (dd, 1H), 6.58-6.70 (m, 3H), 3.99-4.04 (m, 2H), 2.48-2.80 (m, 4H), 1.90-2.06 (m, 4H).

reactant | 3-[(3-methoxy-phenyl)-thiophen-3-yl-methylene]-8-(3-methyl-but-2-enyl)-8-aza-bicyclo[3.2.1]octane | 1.05 mmol, 400 mg | COC=1C=C(C=CC1)C(=C1CC2CCC(C1)N2CC=C(C)C)C2=CSC=C2 | C24H29NOS
reactant | boron tribromide | 1M, 8.43 mL | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-[(8-Aza-bicyclo[3.2.1]oct-3-ylidene)-thiophen-3-yl-methyl]-phenol | 76 mg | C12CC(CC(CC1)N2)=C(C=2C=C(C=CC2)O)C2=CSC=C2 | C18H19NOS
